US08252810B2
(1) 5-Methyl-4-(tetrahydropyran-4-yl)-2,4-dihydro[1,2,4]triazol-3-one
After dissolving 5-methyl-3H-[1,3,4]oxadiazol-2-one (CAS 3069-67-8) (500 mg) in methanol (5 ml), 4-aminotetrahydropyran (1.01 g) was added and the mixture was heated to reflux for 15 hours. The reaction mixture was concentrated under reduced pressure, and then a 1N aqueous solution of sodium hydroxide (5.5 ml) was added to the residue and the mixture Was stirred at 100° C. for 2 hours. After then adding 5N hydrochloric acid (1.1 ml) to the reaction mixture, it was stirred at room temperature for 3 hours. The precipitate was collected by filtration and washed with water and ethyl acetate in that order to obtain the title compound (400 mg).

reactant | 5-methyl-3H-[1,3,4]oxadiazol-2-one | 500 mg | CC1=NNC(O1)=O | C3H4N2O2
reactant | 4-aminotetrahydropyran | 1.01 g | NC1CCOCC1 | C5H11NO
solvent | methanol | 5 ml | CO | CH4O
product | 5-Methyl-4-(tetrahydropyran-4-yl)-2,4-dihydro[1,2,4]triazol-3-one | 400 mg | CC=1N(C(NN1)=O)C1CCOCC1 | C8H13N3O2
